US07855193B2
5-isobutylbenzofuran (Step 1 in Scheme 2)
5-bromobenzofuran (500 mg, 2.56 mmol) was dissolved in THF solution of isobutylzinc(II)bromide (0.5M, 15 mL, 7.40 mmol) in a microwave reaction tube. Pd(PtBu3)2 (65 mg, 0.128 mmol, 0.05 eqv.) was added to this solution. The mixture was purged with N2 gas for 3-5 min and heated at 100° C. for 30 min under microwave irradiation. Upon completion of the reaction, the reaction mixture was diluted with ethyl acetate, washed with 1N HCl aqueous solution, brine, filtered through Celite. The filtrate was dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (ISCO system, 5% EtOAc in hexanes) to give 0.331 g desired product (74% yield): 1H NMR (400 MHz, CDCl3) δ 7.59 (s, 1H), 7.35 (d, 1H), 7.07 (d, 1H), 6.70(s, 1H), 2.59 (d, 2H), 1.9 (m, 1H), 0.9 (d, 6H).

reactant | 5-bromobenzofuran | 2.56 mmol, 500 mg | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
reactant | isobutylzinc(II)bromide | 7.40 mmol, 0.5M, 15 mL | [Br-].C(C(C)C)[Zn+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PtBu3)2 | 0.128 mmol, 65 mg, 0.05 eqv. | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-isobutylbenzofuran | 0.331 g, 74% yield | C(C(C)C)C=1C=CC2=C(C=CO2)C1 | C12H14O
